### PR TITLE
Add exercise 9 chapter 1 problem statements + few proofs

### PR DESCRIPTION
**Pull request by aris-uu**

### CODE REVIEW

File: M1FExplained/Chapter01/Exercises/Exercise09.lean [hunk 1]
```diff
@@ -0,0 +1,31 @@
...
+theorem part_c : ∃ x : ℤ, ∀ n : ℤ, x ≠ n^2 + 2 := by sorry
+
+theorem part_d : ¬ ∃ x : ℤ, ∀ n : ℤ, x ≠ n + 2 := by
+  push_neg
+  intro x
+  use (x - 2)
+  simp
+
+theorem part_e : ∀ y : ℤ, y ≥ 1 →  Prime (5 * y ^ 2 + 5 * y + 1) := by
+  sorry
```
Comment (kbuzzard) [inline M1FExplained/Chapter01/Exercises/Exercise09.lean]: This one is going to be false, right? Can you replace it with its negation?

Comment (aris-uu) [reply M1FExplained/Chapter01/Exercises/Exercise09.lean]: Fixed!

**Comment by kbuzzard** [comment]
Thanks!
